US07910592B2
To a solution of benzyl 5-amino-1,3-dihydro-2H-isoindole-2-carboxylate (560 mg, 2.09 mmol) in a mixture of CH2Cl2 (10 mL) and MeOH (2.5 mL), was added NaHCO3 (263 mg, 3.13 mmol) followed by 1M ICl in CH2Cl2 (2.1 mL, 2.1 mmol). The mixture was stirred for 30 min and then quenched with sat. aq. NaHSO3. The resulting mixture was extracted with EtOAc (3×). The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel to provide benzyl 5-amino-6-iodo-1,3-dihydro-2H-isoindole-2-carboxylate. LCMS calc.=395.0; found=394.7 (M+H)+. 1H NMR (500 MHz, CDCl3): δ 7.58-7.51 (2 s, 1H); 7.45-7.35 (m, 5H); 6.70-6.64 (2 s, 1H); 5.24 (s, 2H); 4.67 (s, 2H); 4.65 (s, 2H); 4.15 (br, s, 2H).

reactant | benzyl 5-amino-1,3-dihydro-2H-isoindole-2-carboxylate | 2.09 mmol, 560 mg | NC=1C=C2CN(CC2=CC1)C(=O)OCC1=CC=CC=C1 | C16H16N2O2
reactant | NaHCO3 | 3.13 mmol, 263 mg | C(=O)(O)[O-].[Na+]
reactant | ICl | 1M | ICl | ClI
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2.5 mL | CO | CH4O
solvent | CH2Cl2 | 2.1 mmol, 2.1 mL | C(Cl)Cl | CH2Cl2
product | benzyl 5-amino-6-iodo-1,3-dihydro-2H-isoindole-2-carboxylate | NC=1C=C2CN(CC2=CC1I)C(=O)OCC1=CC=CC=C1 | C16H15IN2O2
